US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-chloro-phenylboronic acid to give [1-(4-Chloro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 351(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 4-chloro-phenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | [1-(4-Chloro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | ClC1=CC=C(C=C1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C19H15ClN4O
